US07485732B2
Step 1: 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)-1-methylethyl 4-nitrophenyl carbonate
To a solution of 420 mg (0.91 mmol) of 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-1-(3,5-difluorophenyl)propan-2-ol, prepared according to the procedures of Example 35, and 222 mg (1.82 mmol) of 4-dimethylaminopyridine in 10 mL of methylene chloride was added 276 mg (1.37 mmol) of 4-nitrophenyl chloroformate and was stirred for 4 h at rt. The reaction mixture was concentrated and the residue was purified by silica gel chromatography with hexanes/ethyl acetate=12:1 to afford the title compound as a white solid. Mass Spectrum: m/e=627 (M+1 35Cl, 35Cl) and 629 (M+1 35Cl, 37Cl).

reactant | 1-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-1-(3,5-difluorophenyl)propan-2-ol | 0.91 mmol, 420 mg | ClC1=CC=C(C=C1)C(N1CC(C1)=C(C(C)O)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H21Cl2F2NO
reactant | 4-nitrophenyl chloroformate | 1.37 mmol, 276 mg | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
catalyst | 4-dimethylaminopyridine | 1.82 mmol, 222 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-ylidene}-2-(3,5-difluorophenyl)-1-methylethyl 4-nitrophenyl carbonate | C(OC(C(C1=CC(=CC(=C1)F)F)=C1CN(C1)C(C1=CC=C(C=C1)Cl)C1=CC=C(C=C1)Cl)C)(OC1=CC=C(C=C1)[N+](=O)[O-])=O | C32H24Cl2F2N2O5
